US09056859B2
A sealed tube was charged with aryl bromide, palladium(II) acetate (0.028 g, 0.124 mmol) and tri-t-butylphosphine-BF4 complex (0.072 g, 0.249 mmol) and sealed. The tube was evacuated and refilled with nitrogen before DMF (12.44 ml) and (3R)-6-bromo-3-methyl-3,4-dihydro-1H-isochromen-1-one (0.75 g, 3.11 mmol) were added followed by bromo(1,3-dioxolan-2-ylmethyl)zinc (6.22 ml, 3.11 mmol). The tube was heated to 110° C. in the microwave for 75 minutes, after which it was cooled, diluted with EtOAc, filtered, concentrated and purified via MPLC (20-50% E/H) to afford (3R)-6-(1,3-dioxolan-2-ylmethyl)-3-methyl-3,4-dihydro-1H-isochromen-1-one. 1H NMR (500 MHz; CDCl3): 8.04 (d, J=7.8 Hz, 1H), 7.32 (d, J=8.0 Hz, 1H), 7.17 (s, 1H), 5.11 (1, J=4.7 Hz, 1H), 4.68 (m, 1H), 3.96 (m, 2H), 3.88 (m, 2H), 3.03 (d, J=4.9 Hz, 2H), 2.93 (m, 2H), 1.54 (d, J=6.4 Hz, 3H); LC-MS (IE, m/z): 249 [M+1]+.

reactant | DMF | 12.44 ml | CN(C)C=O | C3H7NO
reactant | (3R)-6-bromo-3-methyl-3,4-dihydro-1H-isochromen-1-one | 3.11 mmol, 0.75 g | BrC=1C=C2C[C@H](OC(C2=CC1)=O)C | C10H9BrO2
reactant | bromo(1,3-dioxolan-2-ylmethyl)zinc | 3.11 mmol, 6.22 ml | Br[Zn]CC1OCCO1
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 0.124 mmol, 0.028 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3R)-6-(1,3-dioxolan-2-ylmethyl)-3-methyl-3,4-dihydro-1H-isochromen-1-one | O1C(OCC1)CC=1C=C2C[C@H](OC(C2=CC1)=O)C | C14H16O4
